US08084620B2
A mixture of 1-bromo-3-(bromomethyl)-2-methylbenzene (prepared according to the procedures reported in US Pat. Appl. 2006/0173183, 250 mg, 0.947 mmol), 1H-indazole (112 mg, 0.947 mmol) and potassium carbonate (131 mg, 0.947 mmol) in acetonitrile (5 mL) was heated with stirring at 80° C. After 18.25 h, the mixture was cooled to rt, diluted with water and extracted three times with EtOAc. The combined organic layers were dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 95:5 to 65:35 hexane-EtOAc) to provide 1-(3-bromo-2-methylbenzyl)-1H-indazole as an oil which crystallized on standing (Intermediate 31-1, 74 mg, 26%). 1H NMR (400 MHz, chloroform-d) δ 8.06 (1H, d, J=0.9 Hz), 7.76 (1H, dt, J=8.1, 1.0 Hz), 7.48 (1H, d, J=7.9 Hz), 7.30-7.37 (1H, m), 7.26-7.30 (1H, m), 7.16 (1H, ddd, J=8.0, 6.8, 1.0 Hz), 6.93 (1H, t, J=7.8 Hz), 6.70 (1H, d, J=7.7 Hz), 5.61 (2H, s), 2.45 (3H, s). Mass spectrum m/z 301, 303 (M+H)+. Also obtained was 2-(3-bromo-2-methylbenzyl)-2H-indazole as a pale yellow gum (Intermediate 31-2, 164 mg, 58%). 1H NMR (400 MHz, chloroform-d) δ 7.68-7.76 (2H, m), 7.54-7.63 (2H, m), 7.28 (1H, ddd, J=8.2, 7.2, 1.1 Hz), 6.97-7.10 (3H, m), 5.63 (2H, s), 2.37 (3H, s). Mass spectrum m/z 301, 303 (M+H)+.

reactant | 1-bromo-3-(bromomethyl)-2-methylbenzene | BrC1=C(C(=CC=C1)CBr)C | C8H8Br2
reactant | 1H-indazole | 0.947 mmol, 112 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | potassium carbonate | 0.947 mmol, 131 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(3-bromo-2-methylbenzyl)-1H-indazole | BrC=1C(=C(CN2N=CC3=CC=CC=C23)C=CC1)C | C15H13BrN2
